US06919331B2
A mixture of 1-[5-bromo-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one (45 mg, 0.1 mmol), benzophenone imine (22 mg, 0.12 mmol), sodium tert-butoxide (13 mg, 0.14 mmol), BINAP (19 mg, 0.03 mmol) and Pd2(dba)3 (9 mg, 0.01 mmol) in toluene (2 mL) was heated to reflux for 6 h. After cooling, the reaction mixture was diluted with EtOAc and washed with sat. NaHCO3 and brine. The organic layer was dried over MgSO4 and evaporated. The residue was purified by flash chromatography (hexanes:EtOAc 4:1 to 1:1) to give 48 mg (87%) of 1-[5-(benzhydrylidene-amino)-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one as a yellow solid.

reactant | 1-[5-bromo-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one | 0.1 mmol, 45 mg | BrC1=CC2=C(N(C(=N2)CN2C(N(C3=C2C=CC=C3)C(C)C)=O)CCC(C)C)C=C1 | C23H27BrN4O
reactant | benzophenone imine | 0.12 mmol, 22 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium tert-butoxide | 0.14 mmol, 13 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.03 mmol, 19 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.01 mmol, 9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[5-(benzhydrylidene-amino)-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one | 48 mg, 87% | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=CC2=C(N(C(=N2)CN2C(N(C3=C2C=CC=C3)C(C)C)=O)CCC(C)C)C=C1 | C36H37N5O
